US04179563
A solution of 74.3 g of 3-(o-chlorophenoxy)pyridine [Agr. Biol. Chem. 34, 68 (1970)] in 75 ml of glacial acetic acid at 35° C. is treated with 76 g of 40% peractic acid in acetic acid in three equal portions. The mixture is held at 35° C. for 16 hours, refluxed 1 hour, cooled to 60° C. and 75 ml of isopropanol is added. The mixture is refluxed for 1 hour, cooled and concentrated at reduced pressure. The oil is dissolved in 700 ml of dichloromethane, washed with excess 25% sodium hydroxide solution, concentrated at reduced pressure and distilled to yield 3-(o-chlorophenoxy)pyridine N-oxide, bp 150°-155° C. at 0.15 mm.

reactant | 3-(o-chlorophenoxy)pyridine | 74.3 g | ClC1=C(OC=2C=NC=CC2)C=CC=C1 | C11H8ClNO
reactant | peractic acid | 76 g | C(C)(=O)OO | C2H4O3
reactant | isopropanol | 75 ml | C(C)(C)O | C3H8O
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 3-(o-chlorophenoxy)pyridine N-oxide | ClC1=C(OC=2C=[N+](C=CC2)[O-])C=CC=C1 | C11H8ClNO2
